US04024141
2-Chloro-4-(3-Methoxypropylamino)-6-(2-[ Methylcarbamyloxy]ethylamino)-s-Triazine
A solution of 5 g 2-chloro-4-(3-methoxypropylamino)-6-(2-hydroxyethylamino)-s-triazine, 1.2 g methyl isocyanate and 10 drops triethylamine in 20 ml dimethylformamide was heated at 100° C. for 2 hours. The dimethylformamide was removed by distillation and the resulting residue was slurried with ether and filtered to give the product as a white powder. The melting point and elemental analysis on the product are tabulated in Table I.

reactant | 2-chloro-4-(3-methoxypropylamino)-6-(2-hydroxyethylamino)-s-triazine | 5 g | ClC1=NC(=NC(=N1)NCCCOC)NCCO | C9H16ClN5O2
reactant | methyl isocyanate | 1.2 g | CN=C=O | C2H3NO
catalyst | triethylamine | 10 drops | C(C)N(CC)CC | C6H15N
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | 2-Chloro-4-(3-Methoxypropylamino)-6-(2-[ Methylcarbamyloxy]ethylamino)-s-Triazine | ClC1=NC(=NC(=N1)NCCCOC)NCCOC(NC)=O | C11H19ClN6O3
